US05817647
Z-(4-Chloro-2-butenyloxy)methyl phosphonic acid diethylester
To a mixture of hydroxymethyl phosphonic acid diethylester (1.68 g, 10 mmol), Z-1,4-dichloro-2-butene (1.9 g, 15 mmol) and tetra-n-butylammonium iodide (0.36 g, 1 mmol) in anhydrous tetrahydrofuran (15 ml), sodium hydride (0.48 g, 12 mmol, 60% in oil) is added at 0° C. The resulting mixture is stirred overnight at 20° C., hydrolyzed with a saturated solution of ammonium chloride and extracted with diethylether. The title product is obtained by flash chromatography on silica gel (1.2 g, 45%).

reactant | hydroxymethyl phosphonic acid diethylester | 10 mmol, 1.68 g | C(C)OP(OCC)(=O)CO | C5H13O4P
reactant | Z-1,4-dichloro-2-butene | 15 mmol, 1.9 g | ClC\C=C/CCl | C4H6Cl2
reactant | sodium hydride | 12 mmol, 0.48 g | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | tetra-n-butylammonium iodide | 1 mmol, 0.36 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | Z-(4-Chloro-2-butenyloxy)methyl phosphonic acid diethylester | C(C)OP(OCC)(=O)COC\C=C/CCl | C9H18ClO4P
